US07323469B2
4-{4-[4-((R)-1-Phenyl-ethylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzyl}-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 1.6 g (4 mmol) [6-(4-chloromethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-((R)-1-phenyl-ethyl)-amine (for the preparation see Example 9, Step 9.3 of WO 03/013541 A1) in 50 ml DMF is treated with 1.56 g (8.4 mmol) N—BOC-piperazine and 2.76 g (20 mmol) anhydrous potassium carbonate and the mixture heated to 65° C. for 1 hour. The reaction mixture is cooled and the inorganic salts removed by filtration (Hyflo Super Cel®; Fluka, Buchs, Switzerland). The DMF is evaporated under reduced pressure and the residue purified through flash chromatography using first dichloromethane/ethanol 95:5 and then dichloromethane/ethanol 9:1. The title compound is obtained as a solid; m.p. 244-246° C.; MS-ES+: (M+H)+=513; TLC Rf(dichloromethane/ethanol 9:1) 0.46.

reactant | [6-(4-chloromethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-((R)-1-phenyl-ethyl)-amine | 4 mmol, 1.6 g | ClCC1=CC=C(C=C1)C1=CC2=C(N=CN=C2N[C@H](C)C2=CC=CC=C2)N1 | C21H19ClN4
reactant | N—BOC-piperazine | 8.4 mmol, 1.56 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-{4-[4-((R)-1-Phenyl-ethylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)C1=CC2=C(N=CN=C2N[C@H](C)C2=CC=CC=C2)N1 | C30H36N6O2
